US04072756
5-[4-(5-dibenzo[a,d]cycloheptenylidene)-piperidino]-2-pentanone
4-(5-dibenzo[a,d]cycloheptenylidene)piperidine is reacted in a manner analogous to that described in Example 7 with 5-bromo-2-pentanone. M.P. of the hydrochloride of the title compound 206°-207° after crystallization from isopropanol.

reactant | 4-(5-dibenzo[a,d]cycloheptenylidene)piperidine | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCNCC3 | C20H19N
reactant | 5-bromo-2-pentanone | BrCCCC(C)=O | C5H9BrO
product | 5-[4-(5-dibenzo[a,d]cycloheptenylidene)-piperidino]-2-pentanone | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)CCCC(C)=O | C25H27NO
